US07531663B2
10 cm3 of thionyl chloride are added at 22° C. under an argon atmosphere to 1 g (3 mmol) of 3-carboxy-5-methyl-1-(quinol-4-yl)-1H-indole. After stirring at reflux for 2.5 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), successively triturated twice with 5 cm3 of dimethoxyethane and then concentrated to dryness under reduced pressure (2.7 kPa) to give 1 g of 3-chlorocarbonyl-5-methyl-1-(quinol-4-yl)-1H-indole hydrochloride in the form of a yellow solid which is used directly in the following step.

reactant | 3-carboxy-5-methyl-1-(quinol-4-yl)-1H-indole | 3 mmol, 1 g | C(=O)(O)C1=CN(C2=CC=C(C=C12)C)C1=CC=NC2=CC=CC=C12 | C19H14N2O2
reactant | thionyl chloride | 10 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 3-chlorocarbonyl-5-methyl-1-(quinol-4-yl)-1H-indole hydrochloride | 1 g | Cl.ClC(=O)C1=CN(C2=CC=C(C=C12)C)C1=CC=NC2=CC=CC=C12 | InChI=1S/C19H13ClN2O.ClH/c1-12-6-7-17-14(10-12)15(19(20)23)11-22(17)18-8-9-21-16-5-3-2-4-13(16)18;/h2-11H,1H3;1H
